US05602252
9-Ethyl-4-[N-(2-(pyridin-2-yl)ethyl)methylamino]imidazo[5,1-h]-pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with 2-(2(methylamino)ethyl)pyridine followed by reaction with 2-ethylimidazole, reduction with tin (II) chloride and cyclization with carbonyldiimidazole.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 2-(2(methylamino)ethyl)pyridine | CNCCC1=NC=CC=C1 | C8H12N2
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 9-Ethyl-4-[N-(2-(pyridin-2-yl)ethyl)methylamino]imidazo[5,1-h]-pteridin-6(5H)-one | C(C)C1=NC=C2C(NC=3C(=NC=NC3N21)N(CCC2=NC=CC=C2)C)=O | C18H19N7O
